Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ s/p RYGB & cholecystecomy in ___ transferred here after
being BIBA to OSH with acute-onset ___ band-like abdominal 
pain
and 6 episodes of emesis.

Per patient, abdominal pain started while she was at pet store,
about 1 hour after a diet of pizza, diet soda and chips. She
reported the pain as tight squeezing pain that wrapped around 
the
upper half of the abdomen. She felt extremely nauseous, light
headed, and diaphoretic. She had a total of 6 episodes of 
emesis.

She was found lying on the bathroom floor by EMS and taken to 
OSH
ED. She had one lose bowel movement. she reported that 
positional
changes exacerbated the pain. 

At OSH, her vital signs were stable. Labs significant for 
amylase
195. Trops, LFTs, lipase, lactate(1.0) were WNL. CT scan was
concerning for internal hernia. She was given Zofran for nausea,
and IV morphine for pain and transferred here for further
management. 

On arrival to the ED here, she reports abdominal pain had 
largely
resolved, her last episode of emesis was 5 hours prior. ROS was
positive for increased fatigue in the preceding week. 

 
Past Medical History:
PMH                                
-ASTHMA                                                          

-BACK PAIN                                                       

-GASTROESOPHAGEAL REFLUX                                         

-HYPERTENSION                                                    

-KNEE PAIN                                                       

-MIGRAINES                                                       

-OBESITY                                                         

-SLEEP APNEA                                                     

-SYNCOPE
-Endometrial cancer                                              


PSH 
-S/P HYSTERECTOMY                                               
-S/P LAP RNY GASTRIC BYPASS (___) 
-S/P mastoidectomy (as a child)
 
Social History:
Tobacco use: Never smoker 
 
Physical Exam:
Gen: NAD, conversing comfortably in ED bed, AOx3, 
Lungs: CTAB, no respiratory distress
Cardiac: RRR, ___ SEM
Abd: soft, non-distended. Not tender to light palpation in all 4
quadrants. Minimally tender to deep palpation in upper 
quadrants.
No rebound or guarding
Ext: warm and well perfused. 
 
Pertinent Results:
___ 12:42AM   GLUCOSE-110* UREA N-15 CREAT-0.6 SODIUM-138 
POTASSIUM-4.5 CHLORIDE-103 TOTAL CO2-22 ANION GAP-18
___ 12:42AM   ALT(SGPT)-15 AST(SGOT)-26 ALK PHOS-102 TOT 
BILI-0.3
___ 12:42AM   LIPASE-60
___ 12:42AM   WBC-5.7 RBC-3.62* HGB-9.0* HCT-30.7* MCV-85 
MCH-24.9* MCHC-29.3* RDW-15.9* RDWSD-49.5*
___ 12:42AM   NEUTS-84.8* LYMPHS-9.5* MONOS-4.9* EOS-0.0* 
BASOS-0.4 IM ___ AbsNeut-4.82 AbsLymp-0.54* AbsMono-0.28 
AbsEos-0.00* AbsBaso-0.02
___ 12:42AM   PLT COUNT-187
 
Brief Hospital Course:
The patient was admitted to the General Surgical Service on 
___ for evaluation and treatment of abdominal pain.  
Admission CT revealed no obstruction or bowel compromise, but 
showed a swirl-sign. Throughout his stay, the patient remained 
clinically stable and completely asymptomatic. The patient was 
informed about risk of obstruction, bowel compromise, loss of 
bowel, short gut, death as well as danger signs. She declined 
surgery at the time of her admission. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Citalopram 20 mg PO DAILY 

 
Discharge Medications:
1.  Citalopram 20 mg PO DAILY  
2.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you here at the ___ 
___. You were admitted to our hospital for 
your abdominal pain. You are now ambulating, tolerating a 
regular diet, and your pain is controlled. You are now ready to 
be discharged to home. Please follow the recommendations below 
to ensure a speedy and uneventful recovery. 

Discharge Instructions: Please call your surgeon Dr. ___ 
at ___ or return to the Emergency Department if you 
develop a fever greater than ___ F, shaking chills, chest pain, 
difficulty breathing, pain with breathing, cough, a rapid 
heartbeat, dizziness, severe abdominal pain, pain unrelieved by 
your pain medication, a change in the nature or severity of your 
pain, severe nausea, vomiting, abdominal bloating, severe 
diarrhea, inability to eat or drink, foul smelling or colorful 
drainage from your incisions, redness, swelling from your 
incisions, or any other symptoms which are concerning to you.
Medication Instructions:
Please refer to the medication list provided with your discharge 
paperwork for detailed instruction regarding your home and newly 
prescribed medications.  

 
Followup Instructions:
___